### ISSUE TITLE
Two Frame axioms in MutualFrame.lean are inconsistent: each yields a compiled proof of False

### ISSUE THREAD

**Issue by oskarth** [leonardoalt/evm-smith#4]
*(This issue was written by AI tooling)*

`EvmYul/Frame/MutualFrame.lean` declares two axioms that are false as stated, and Lean accepts a proof of `False` from each one.

- `lambda_derived_address_ne_C` (line 142) says the address derived inside Λ differs from every address `C`. Nothing constrains `C`, so instantiating it with the derived address itself gives `a ≠ a`, and `False` follows by `rfl`. No Keccak collision or preimage search is involved.
- `precompile_preserves_accountMap` (line 123) quantifies over every function `f` of the precompile type, not the ten actual precompiles. A constant function returning a non-empty map refutes it.

The logical shape of the first, checkable in seconds with any Lean 4 and no imports:

```lean
theorem shapeRefutation {T : Type} (derived : T)
    (claim : ∀ C : T, derived ≠ C) : False :=
  claim derived rfl
```

Tested at evm-smith `14711eefeaeffba72899e76a0aec84a91a7c72aa` (the current HEAD), which pins the EVMYulLean submodule at `56253eb468bb39355ed522440502e3480c0139f0`. The toolchain is the pinned `leanprover/lean4:v4.22.0`. No library source was modified.

## Reproduction

```sh
git clone https://github.com/leonardoalt/evm-smith.git
cd evm-smith
git config submodule.EVMYulLean.url https://github.com/kadenoc/EVMYulLean.git
git submodule update --init EVMYulLean
lake exe cache get
lake build EvmYul.Frame.MutualFrame
```

The submodule URL override is only needed because `https://github.com/leonardoalt/EVMYulLean` returned 404 for us (it may be private); the `kadenoc` fork carries the exact pinned commit, and `git submodule update` checks out `56253eb` as recorded in your tree.

Create `RealAxiomRefutation.lean` in the repository root:

```lean
import EvmYul.Frame.MutualFrame

open EvmYul EvmYul.EVM EvmYul.Frame

namespace AxiomRepro

theorem lambdaRefutation : False := by
  let s : AccountAddress := default
  let n : UInt256 := .ofNat 0
  let salt : Option ByteArray := none
  let init : ByteArray := .empty
  let derived : AccountAddress := Fin.ofNat _
    (fromByteArrayBigEndian
      ((ffi.KEC ((EVM.Lambda.L_A s n salt init).getD default)).extract 12 32))
  exact lambda_derived_address_ne_C s n salt init derived rfl

#print axioms lambdaRefutation

end AxiomRepro
```

`lake env lean RealAxiomRefutation.lean` exits 0 and prints:

```text
'AxiomRepro.lambdaRefutation' depends on axioms: [propext,
 Classical.choice,
 Quot.sound,
 EvmYul.Frame.lambda_derived_address_ne_C]
```

The precompile axiom has an independent contradiction. Create `PrecompileRefutation.lean`:

```lean
import EvmYul.Frame.MutualFrame

open EvmYul EvmYul.EVM EvmYul.Frame

namespace AxiomRepro

theorem precompileRefutation : False := by
  let m : AccountMap .EVM := (∅ : AccountMap .EVM).insert default default
  have h := precompile_preserves_accountMap (∅ : AccountMap .EVM)
    (.ofNat 0) default default
    (fun _ _ _ _ => (true, m, UInt256.ofNat 0, default, ByteArray.empty))
  have hEmpty : m = (∅ : AccountMap .EVM) := h.elim id id
  have hFind := congrArg (fun σ : AccountMap .EVM => σ.find? default) hEmpty
  have hImpossible : some (default : Account .EVM) = none := hFind
  cases hImpossible

#print axioms precompileRefutation

end AxiomRepro
```

`lake env lean PrecompileRefutation.lean` exits 0 and prints:

```text
'AxiomRepro.precompileRefutation' depends on axioms: [propext, Quot.sound, EvmYul.Frame.precompile_preserves_accountMap]
```

This second proof does not use the address axiom, so repairing one declaration still leaves the other contradiction.

## What depends on them

All of the following comes from `#print axioms` on the built library, not from reading the source. To reproduce, create `ClosureCheck.lean`:

```lean
import EvmSmith.Demos.Register.BalanceMono
import EvmSmith.Demos.Weth.Solvency

#print axioms EvmYul.Frame.Λ_balanceOf_ge
#print axioms EvmYul.Frame.Θ_balanceOf_ge
#print axioms EvmYul.Frame.Ξ_balanceOf_ge_bundled
#print axioms EvmYul.Frame.Ξ_invariant_preserved_bundled_bdd
#print axioms EvmSmith.Register.register_balance_mono
#print axioms EvmSmith.Weth.weth_solvency_invariant
```

Then run `lake build EvmSmith.Demos.Register.BalanceMono EvmSmith.Demos.Weth.Solvency` followed by `lake env lean ClosureCheck.lean`. The results:

- `EvmYul.Frame.Λ_balanceOf_ge` depends on the address axiom; `Θ_balanceOf_ge` on the precompile axiom; `Ξ_balanceOf_ge_bundled` and `Ξ_invariant_preserved_bundled_bdd` on both.
- `EvmSmith.Register.register_balance_mono` depends on both axioms plus `Lean.ofReduceBool`.
- `EvmSmith.Weth.weth_solvency_invariant`, `Υ_balanceOf_ge`, and `Υ_invariant_preserved` depend only on `propext`, `Classical.choice`, and `Quot.sound`. The WETH solvency theorem is not affected by these axioms (it remains conditional on its `WethAssumptions` bundle).

The header at `MutualFrame.lean:57` calls `Θ_balanceOf_ge` and `Λ_balanceOf_ge` fully closed. The proof bodies are complete, but with an inconsistent axiom in the dependency set they currently certify nothing: any proposition is derivable. By source reading (not machine-checked), the direct use sites are `MutualFrame.lean:2613` and `:2622` and `EvmSmith/Demos/Weth/InvariantClosure.lean:1174` and `:1183`. None of this establishes an executable attack on the demo contracts.

## Possible repairs

- For the address condition: take the needed inequalities as hypotheses (as `h_newC` already does), including one against the sender `s`; or require the derived address to be fresh relative to the pre-state.
- For the precompile condition: restrict `f` to the ten precompiles and prove the property by inspection, or take it as a hypothesis.

We checked the public refs, issues, and PRs and found no existing fix; the earlier audit in PR 1 concerns a different axiom.

The frame development itself is careful work and the axioms are documented in the header; they just quantify more broadly than intended. Happy to retest once the declarations are narrowed.
